US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3,5-difluoronitrobenzene
To a solution of 1-t-butoxycarbonyl-4-hydroxypiperidine (1.73 g), 2,6-difluoro-4-nitrophenol (1.37 g) and triphenylphosphine (2.67 g) in dichloromethane (30 ml) was added dropwise diethyl azodicarboxylate (1.57 ml) in an ice bath and the mixture was stirred at room temperature for 9 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=6/1 as an eluant to give the desired compound (2.13 g, yield 76%) as a pale yellow solid.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 1.73 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2,6-difluoro-4-nitrophenol | 1.37 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)O | C6H3F2NO3
reactant | triphenylphosphine | 2.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.57 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3,5-difluoronitrobenzene | 2.13 g, yield 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1F)[N+](=O)[O-])F | C16H20F2N2O5
